US04347382
To 3-(2-chloro-4-cyanophenyl)-propanoic acid (14.3 g, 0.068 mol) in 70 mL of dry THF at -18° C. was added B2H6 (72 ml, 0.068 mol) in THF. The mixture was stirred at room temperature overnight. After addition of water, the layers were separated and the aqueous phase was extracted with ether. Evaporation and distillation gave 3-(2-chloro-4-cyanophenyl)propanol as an oil: 11.0 g; bp 55°-60° C. (0.005 mm Hg). Anal. calcd for C10H10ClNO: C, 61.39; H, 5.15; N, 7.16. Found: C, 61.02; H, 5.19; N, 6.76.

reactant | 3-(2-chloro-4-cyanophenyl)-propanoic acid | 0.068 mol, 14.3 g | ClC1=C(C=CC(=C1)C#N)CCC(=O)O | C10H8ClNO2
reactant | B2H6 | 0.068 mol, 72 ml | [H]1[BH2][H][BH2]1 | B2H6
reactant | water | O | H2O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 3-(2-chloro-4-cyanophenyl)propanol | ClC1=C(C=CC(=C1)C#N)CCCO | C10H10ClNO
